US04550172
(B) 2-chloromethylbenzothiazole
To a solution of aminothiophenol (8.3 g) in methylene chloride at 0° C. is added methyl chloroacetimidate hydrochloride1 (8.6 g). The reaction is allowed to warm to room temperature while stirring overnight. The mixture is washed with water three times; dried over magnesium sulfate and concentrated to an oil. The oil is distilled (120°-135° C. at 0.5 mm Hg) to give 7.8 g (71% yield) of product.

reactant | aminothiophenol | 8.3 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | methyl chloroacetimidate | 8.6 g | ClCC(OC)=N | C3H6ClNO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloromethylbenzothiazole | 7.8 g, 71% yield | ClCC=1SC2=C(N1)C=CC=C2 | C8H6ClNS
